US08686005B2
2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-(1-methyl-azetidin-3-ylmethyl)-1H-1,3,6-triaza-s-indacene-5,7-dione:
To a mixture of 3-(5-amino-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-azetidine-1-carboxylic acid tert-butyl ester (830 mg, 2.2 mmol) and 10% Pd/C (85 mg) was added 2-propanol (10 mL), and then MeOH (90 mL). After it was stirred under atmospheric hydrogen for 4 h, the reaction mixture was filtered over Celite. The filtrate was mixed with 4-iodo-2-methoxynicotinic aldehyde (580 g, 2.2 mmol) and HOAc (5.0 mL), stirred at the room temperature for 18 h, and evaporated under reduced pressure to afford an oil crude which was mixed with HCl in dioxane (4 M, 30 mL) and H2O (2.5 mL), heated at 70° C. for 2.5 h and evaporated at 95° C. (the bath temperature) to dryness. The residue was diluted with a mixed solvent of DCM/MeOH (30 mL/70 mL), basified with 28% aqueous NH4OH and concentrated. Chromatography of the crude with CH2Cl2/MeOH/28% aqueous NH4OH (25:10:1) afforded a crude product which was mixed with HOAc (2.1 mL) and HCHO (37% in H2O, 2.1 mL) in a mixed solvent of MeOH/THF (24 mL/24 mL). The resulting reaction mixture was stirred at the room temperature for 10 min and followed by addition of Na(OAc)3BH (2.54 g, 12.0 mmol). The reaction mixture was stirred at the room temperature for 63 h and then evaporated. Chromatography of the residue with CH2Cl2/MeOH/28% aqueous NH4OH (90:10:1) afforded the title compound (330 mg, 38%). ESI-MS m/z 398.3 (MH+).

reactant | 3-(5-amino-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-azetidine-1-carboxylic acid tert-butyl ester | 2.2 mmol, 830 mg | C(C)(C)(C)OC(=O)N1CC(C1)CN1C(C2=CC(=C(C=C2C1=O)N)[N+](=O)[O-])=O | C17H20N4O6
reactant | HCl | Cl | ClH
reactant | HCHO | 2.1 mL | C=O | CH2O
reactant | Na(OAc)3BH | 12.0 mmol, 2.54 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dioxane | 4 M, 30 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2.5 mL | O | H2O
catalyst | Pd/C | 85 mg | [Pd] | Pd
solvent | MeOH THF | 24 mL | CO.C1CCOC1
solvent | HOAc | 2.1 mL | CC(=O)O | C2H4O2
solvent | HOAc | 5.0 mL | CC(=O)O | C2H4O2
solvent | MeOH | 90 mL | CO | CH4O
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | 2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-(1-methyl-azetidin-3-ylmethyl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 330 mg, 38% | ClC1=C(C(NC=C1)=O)C=1NC2=CC=3C(N(C(C3C=C2N1)=O)CC1CN(C1)C)=O | C19H16ClN5O3
